US04892875
To a mixture of m-nitrobenzaldehyde (307 mg), 2-(4-benzhydryl-1-piperazinyl)ethyl acetoacetate (668 mg) and benzene (20 ml) was added piperidine (two drops), and the mixture was refluxed for 2 hours under removal of water using a Dean-Stark trap. After cooling, the reaction mixture was washed with water and dried over anhydrous sodium sulfate and the solvent was distilled off to give crude 2-(4-benzhydryl-1-piperazinyl)ethyl 2-(3-nitrobenzylidene)acetoacetate as an oil. NMR(CDCl3) δ: 2.38(3H,s,COCH3), 4.14-4.53(3H,m,--COOCH2CH2 --,>N--CH<), 7.10-8.75(14H,m). This product was submitted to the next reaction step without further purification.

reactant | m-nitrobenzaldehyde | 307 mg | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 2-(4-benzhydryl-1-piperazinyl)ethyl acetoacetate | 668 mg | C(CC(=O)C)(=O)OCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H28N2O3
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | piperidine | two drops | N1CCCCC1 | C5H11N
solvent | water | O | H2O
product | 2-(4-benzhydryl-1-piperazinyl)ethyl 2-(3-nitrobenzylidene)acetoacetate | [N+](=O)([O-])C=1C=C(C=C(C(=O)OCCN2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)C)C=CC1 | C30H31N3O5
